US05681834
Step A: N-[[3-(1,3-dioxolan-2-yl)-2-thienyl]sulfonyl]glycine ethyl ester
To a solution of thiophene-3-carboxaldehyde ethylene acetal (13.27 g, 85.1 mmol) in anhydrous THF (200 mL) at -70° C. was added n-butyllithium (2.5M, 37.4 mL, 93.6 mmol). The solution was stirred for 50 min; a white precipitate formed. Sulfur dioxide was passed through the solution for about 5 min and the mixture was warmed to ambient temperature. The volatiles were evaporated and the residue suspended in methylene chloride (200 mL); this mixture was cooled (0° C.) and N-chlorosuccinimide (14.77 g, 110.6 mmol) added. After stirring at ambient temperature for 3 h the mixture was filtered. The filter pad was washed with ethyl acetate (300 mL) and the combined filtrates were cooled (ice bath) and mixed with a saturated aqueous solution of sodium bicarbonate (250 mL) and glycine ethyl ester hydrochloride (33.99 g, 221 mmol). The mixture was stirred at ambient temperature for 16 h and the organic layer was separated, dried (MgSO4), and evaporated to a residue which was purified by column chromatography (silica, 40% ethyl acetate in hexane) to give a colorless liquid (16.55 g, 61%).

reactant | thiophene-3-carboxaldehyde ethylene acetal | 85.1 mmol, 13.27 g | C1COC(C2=CSC=C2)O1 | C7H8O2S
reactant | n-butyllithium | 93.6 mmol, 2.5M, 37.4 mL | C(CCC)[Li]
reactant | Sulfur dioxide | S(=O)=O | O2S
reactant | N-chlorosuccinimide | 110.6 mmol, 14.77 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | sodium bicarbonate | 250 mL | C([O-])(O)=O.[Na+]
reactant | glycine ethyl ester hydrochloride | 221 mmol, 33.99 g | Cl.C(C)OC(CN)=O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | N-[[3-(1,3-dioxolan-2-yl)-2-thienyl]sulfonyl]glycine ethyl ester | 16.55 g, 61% | C(C)OC(CNS(=O)(=O)C=1SC=CC1C1OCCO1)=O | C11H15NO6S2
